US07425638B2
2-Bromopropionitrile (10 uL, 0.120 mmol) was added to a mixture of [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[piperazin-1-yl]-methanone hydrochloride and diisopropylethylamine (42 uL, 0.240 mmol) in dimethylformamide (1.0 mL). The reaction was stirred at room temperature overnight. Evaporation of the solvent and purification of the crude residue by flash chromatography over silica gel using 1-2% methanol in methylene chloride gave 3-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-propionitrile, which was dissolved in dilute hydrochloric acid (0.5 N, 1 mL) and lyophilized to give 3-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-propionitrile hydrochloride as an off-white powder (20 mg, 39% yield). LR-MS (APCI): 644.4 [(M+H)+].

reactant | 2-Bromopropionitrile | 0.120 mmol, 10 uL | BrC(C#N)C | C3H4BrN
reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[piperazin-1-yl]-methanone hydrochloride | Cl.ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)C(F)(F)F)OCC
reactant | diisopropylethylamine | 0.240 mmol, 42 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 3-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-propionitrile | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCC#N)C1=C(C=C(C=C1)C(F)(F)F)OCC | C32H30Cl2F3N5O2
